US07423150B2
A mixture of DME: H2O (3:1) was degassed with N2 for one half hour. 2-bromo-1-chloro-4-nitrobenzene (1 eq) added and degassed for another 10 minutes. 1,1′-bis(diphenylphosphino)ferrocene palladium(II)chloride (0.05 eq), 3-fluoropyridin-4-yl-4-boronic acid (1 eq), and sodium carbonate (3 eq) were then added and stirred at 100° C. for 16 hours. Reaction then concentrated and partitioned between ethyl acetate and water. Organic layer washed with brine, dried over sodium sulfate and concentrated. Purification on silica gel, 10% ethyl acetate in hexanes to yield 4-(2-chloro-5-nitrophenyl)-3-fluoropyridine. HPLC=4.57 min; MS: MH+=253.

reactant | 2-bromo-1-chloro-4-nitrobenzene | 1 eq | BrC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | 3-fluoropyridin-4-yl-4-boronic acid | 1 eq | B(C1=C(C=NC=C1)F)(O)O | C5H5BFNO2
reactant | sodium carbonate | 3 eq | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II)chloride | 0.05 eq | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | DME H2O | COCCOC.O
product | 4-(2-chloro-5-nitrophenyl)-3-fluoropyridine | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=NC=C1)F | C11H6ClFN2O2
